US07030107B2
In a similar manner to Example 1, 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(2-methylphenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (47.6 mg) was reacted with 4-(dimethylamino)piperidine (28.8 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-9-[4-(dimethylamino)piperidine-1-yl]-7-(2-methylphenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (23.1 mg, 41%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(2-methylphenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 47.6 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=C(C=CC=C3)C)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C25H19ClF6N2O2
reactant | 4-(dimethylamino)piperidine | 28.8 mg | CN(C1CCNCC1)C | C7H16N2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-9-[4-(dimethylamino)piperidine-1-yl]-7-(2-methylphenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 23.1 mg, 41% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=C(C=CC=C3)C)N3CCC(CC3)N(C)C)=O)C=C(C1)C(F)(F)F)(F)F | C32H34F6N4O2
